US07951954B2
c) {2-[3-(2-Hydroxy-ethyl)-phenyl]-ethyl}-[2-(2-methoxyphenyl)-ethyl]-carbamic acid tert-butyl ester
Prepared from 2-(3-{2-[2-(2-Methoxy-phenyl)-ethylamino]-ethyl}-phenyl)-ethanol (900 mg) and di-tert-butyl dicarbonate (700 mg) using the method of Example 44 (step c). The compound was purified on silica, eluting with dichloromethane:ethyl acetate 5:1 to give 1.13 g of the sub-titled compound as an oil.

reactant | 2-(3-{2-[2-(2-Methoxy-phenyl)-ethylamino]-ethyl}-phenyl)-ethanol | 900 mg | COC1=C(C=CC=C1)CCNCCC=1C=C(C=CC1)CCO | C19H25NO2
reactant | di-tert-butyl dicarbonate | 700 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | {2-[3-(2-Hydroxy-ethyl)-phenyl]-ethyl}-[2-(2-methoxyphenyl)-ethyl]-carbamic acid tert-butyl ester | 1.13 g | C(C)(C)(C)OC(N(CCC1=C(C=CC=C1)OC)CCC1=CC(=CC=C1)CCO)=O | C24H33NO4
